US09328116B2
Synthesis of 3-[4-chloro-5-methyl-3-(trifluoromethyl)pyrazol-1-yl]-1-[5-cyclopropyl-1-(4-fluorophenyl)pyrazol-4-yl]pyrrolidin-2-one
A solution containing 3-[4-chloro-5-methyl-3-(trifluoromethyl)pyrazol-1-yl]-1-[1-(4-fluorophenyl)-5-iodo-pyrazol-4-yl]pyrrolidin-2-one (34 mg, 0.061 mmol), cyclopropylboronic acid (7 mg, 0.08 mmol), palladium acetate (1.0 mg, 0.003 mmol), tricyclohexylphosphine (2.0 mg, 0.006 mmol) and potassium phosphate (45 mg, 0.21 mmol) in toluene (1.5 mL) and water (100 μL) was heated to 100° C. for 1 d. After cooling to room temperature, the reaction mixture was diluted with water and extracted with CH2Cl2 (2×10 mL). The combined organic layers were dried over MgSO4, filtered, and concentrated in vacuo. The crude material was purified by reverse phase HPLC (C18 column, acetonitrile-H2O with 0.1% TFA as eluent) to afford the titled compound (1.0 mg, 0.002 mmol, 3%) as a colorless residue. 1H NMR (400 MHz, CDCl3) δ 7.61 (s, 1H), 7.54 (dd, J=9.0, 4.8 Hz, 2H), 7.16 (dd, J=9.0, 8.2 Hz, 2H), 5.06 (dd, J=9.2, 6.3 Hz, 1H), 4.11 (ddd, J=9.6, 8.4, 4.8 Hz, 1H), 3.91 (ddd, J=9.6, 8.0, 4.8 Hz, 1H), 2.98 (dddd, J=12.0, 9.6, 8.4, 6.4, 6.0 Hz, 1H), 2.74 (dddd, J=13.2, 9.2, 8.0, 4.8 Hz, 1H), 2.45 (s, 3H), 1.77 (dddd, J=8.4, 8.4, 5.6, 5.6 Hz, 1H), 0.78-0.64 (m, 2H), 0.43-0.30 (m, 2H); MS: (ES) m/z calculated for C21H18ClF4N5O [M+H]+ 468.1. found 468.1.

reactant | 3-[4-chloro-5-methyl-3-(trifluoromethyl)pyrazol-1-yl]-1-[1-(4-fluorophenyl)-5-iodo-pyrazol-4-yl]pyrrolidin-2-one | 0.061 mmol, 34 mg | ClC=1C(=NN(C1C)C1C(N(CC1)C=1C=NN(C1I)C1=CC=C(C=C1)F)=O)C(F)(F)F | C18H13ClF4IN5O
reactant | cyclopropylboronic acid | 0.08 mmol, 7 mg | C1(CC1)B(O)O | C3H7BO2
reactant | tricyclohexylphosphine | 0.006 mmol, 2.0 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | potassium phosphate | 0.21 mmol, 45 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 μL | O | H2O
catalyst | palladium acetate | 0.003 mmol, 1.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-[4-chloro-5-methyl-3-(trifluoromethyl)pyrazol-1-yl]-1-[5-cyclopropyl-1-(4-fluorophenyl)pyrazol-4-yl]pyrrolidin-2-one | 0.002 mmol, 1.0 mg, 3% | ClC=1C(=NN(C1C)C1C(N(CC1)C=1C=NN(C1C1CC1)C1=CC=C(C=C1)F)=O)C(F)(F)F | C21H18ClF4N5O
